US06225311B1
According to the procedure of Step 4 of Example 243, Mitsunobu coupling of 3.4 g (9.842 mmol) of 4-(4-hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3-carboxylic acid methyl ester and 2.34 g (11.81 mmol) of 6-(tetrahydro-2H-pyran-2-yloxy)-2-hexyn-1-ol provided 3.33g (64%) of methyl-2,2-dimethyl4-[(4-{[6-(tetrahydro-2H-pyran-2-yloxy)-2-hexynyl]oxy}phenyl)sulfonyl]-3-thiomorpholine carboxylate as a colorless oil. Electrospray Mass Spec: 526.3 (M+H)+

reactant | 4-(4-hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3-carboxylic acid methyl ester | 9.842 mmol, 3.4 g | COC(=O)C1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)O | C14H19NO5S2
reactant | 6-(tetrahydro-2H-pyran-2-yloxy)-2-hexyn-1-ol | 11.81 mmol, 2.34 g | O1C(CCCC1)OCCCC#CCO | C11H18O3
product | methyl-2,2-dimethyl4-[(4-{[6-(tetrahydro-2H-pyran-2-yloxy)-2-hexynyl]oxy}phenyl)sulfonyl]-3-thiomorpholine carboxylate | 3.33g, 64% | COC(=O)C1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCCOC1OCCCC1 | C25H35NO7S2
